US05726325
In concentrated hydrochloric acid (10 ml), 1-acetamido-6,11-dihydrodibenz[b,e]oxepin-11-one obtained in Reference Example 3(0.25 g, 0.94 mmol) was heated under reflux for 2 hours. The reaction mixture was poured into a saturated aqueous solution of sodium bicarbonate, followed by extraction with ethyl acetate (25 ml). The organic layer was washed with a saturated aqueous solution of sodium chloride, and then dried over anhydrous magnesium sulfate. After the drying agent was filtered off, the organic layer was concentrated under reduced pressure to give 1-amino-6,11-dihydrodibenz[b,e]oxepin-11-one as a yellow solid (0.17 g, 81%).

reactant | 1-acetamido-6,11-dihydrodibenz[b,e]oxepin-11-one | C(C)(=O)NC1=CC=CC=2OCC3=C(C(C21)=O)C=CC=C3 | C16H13NO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 1-amino-6,11-dihydrodibenz[b,e]oxepin-11-one | 0.17 g, 81% | NC1=CC=CC=2OCC3=C(C(C21)=O)C=CC=C3 | C14H11NO2
